US06503949B1
Step A2: Resin Bound N-(cyclopropylmethyl)-3-aminopropionic Acid
The above resin bound acrylic acid (50 mg) was treated with 300 μmol cyclopropylmethyl amine (21.3 mg) in 300 μL DMSO for 72 hours at 25° C. The excess reagent was filtered off and the resin was washed with 3×1 mL DMSO and 3×1 mL DMF.

reactant | acrylic acid | 50 mg | C(C=C)(=O)O | C3H4O2
reactant | cyclopropylmethyl amine | 300 μmol, 21.3 mg | C1(CC1)CN | C4H9N
solvent | DMSO | 300 μL | CS(=O)C | C2H6OS
product | N-(cyclopropylmethyl)-3-aminopropionic Acid | C1(CC1)CNCCC(=O)O | C7H13NO2
